US07005526B2
A mixture of 3.40 g (17.3 mmol) 1-allyloxy-4-chloromethyl-2-methyl-benzene and 1.45 g (19.0 mmol) thiourea in 5.0 ml ethanol was heated to reflux for 7 h. Solvents were distilled off and the crystalline residue was washed with cold ethanol and isolated by filtration. After addition of 5.0 ml ethanol, 2.0 ml water and 1.4 ml 25% aqueous ammonia, the mixture was heated to reflux for 2 h. Ethanol was distilled off, then acidified with 0.5 ml half conc. HCl and extracted with ethyl acetate. The solution was dried over MgSO4 and solvents were removed in vacuum to yield 1.99 g (59%) (4-allyloxy-2-methyl-phenyl)-methanethiol as nearly colourless oil, which was used immediately.

reactant | 1-allyloxy-4-chloromethyl-2-methyl-benzene | 17.3 mmol, 3.40 g | C(C=C)OC1=C(C=C(C=C1)CCl)C | C11H13ClO
reactant | thiourea | 19.0 mmol, 1.45 g | NC(=S)N | CH4N2S
reactant | water | 2.0 ml | O | H2O
reactant | ammonia | 1.4 ml | N | H3N
reactant | ethanol | 5.0 ml | C(C)O | C2H6O
reactant | ethanol | 5.0 ml | C(C)O | C2H6O
product | (4-allyloxy-2-methyl-phenyl)-methanethiol | 1.99 g, 59% | C(C=C)OC1=CC(=C(C=C1)CS)C | C11H14OS
